US07223874B2
5-(4-methoxyphenyl)-6a-(1-phenylvinyl)-tetrahydrofuro[3,2-b]furan-2-one
(5-(4-methoxyphenyl)-3-vinylidene-tetrahydro-furan-2-yl)acetic acid (34 mg, 0.12 mmol), Pd(PPh3)4 (14 mg, 0.012 mmol) and K2CO3 (84 mg, 0.61 mmol) were dissolved in 3 mL of dimethylformamide, followed by addition of PhI (68 μL, 0.61 mmol). The solution was stirred for 4 hours at 85° C. When the reaction was completed, H2O was added and the solution was stirred for 5 minutes. The mixture was diluted with ethyl acetate, washed with H2O and NaCl. Organic layer was separated and dried with anhydride MgSO4. Solvent was removed under reduced pressure, and the remnant was purified through silica gel tube chromatography (EtOAc:n-Hexane=1:15, v/v), thus providing products (27 mg, 61%).

reactant | (5-(4-methoxyphenyl)-3-vinylidene-tetrahydro-furan-2-yl)acetic acid | 0.12 mmol, 34 mg | COC1=CC=C(C=C1)C1CC(C(O1)CC(=O)O)=C=C | C15H16O4
reactant | K2CO3 | 0.61 mmol, 84 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | PhI | 0.61 mmol, 68 μL | C1(=CC=CC=C1)I | C6H5I
reactant | H2O | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-methoxyphenyl)-6a-(1-phenylvinyl)-tetrahydrofuro[3,2-b]furan-2-one | COC1=CC=C(C=C1)C1CC2(OC(CC2O1)=O)C(=C)C1=CC=CC=C1 | C21H20O4
